US08247429B2
2-(2-phenyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethanamine
Methyl 9-(2-aminoethyl)-2-phenyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate (295 mg, 0.881 mmol) was dissolved in 40% (v/v) sulfuric acid (6 mL), and the mixture was stirred at 100° C. for 3 days. The reaction solution was diluted with water and neutralized with sodium hydrogen carbonate, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound. The obtained title compound was used for the reaction of Example 34 without purification.

reactant | Methyl 9-(2-aminoethyl)-2-phenyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate | 0.881 mmol, 295 mg | NCCC1CCC2=C1C=1N(C=C2)N=C(C1C(=O)OC)C1=CC=CC=C1 | C20H21N3O2
solvent | sulfuric acid | 6 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 2-(2-phenyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethanamine | C1(=CC=CC=C1)C1=NN2C(C3=C(C=C2)CCC3CCN)=C1 | C18H19N3
